US07700641B2
Synthesis of 2-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]-1H-isoindole-1,3(2H)-dione
Following the procedure as described in EXAMPLE 1, and making non-critical variations using 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 61% yield: 1H NMR (300 MHz, CDCl3) δ 7.81-7.73 (m, 2H), 7.71-7.62 (m, 2H), 7.18-7.08 (m, 2H), 6.98 (t, 1H), 6.87 (d, 1H), 6.43 (s, 1H), 6.29 (s, 1H), 5.91-5.81 (ABq, 2H), 4.79 (d, 1H), 4.58 (d, 1H), 4.18-3.92 (m, 4H), 3.06 (t, 2H), 1.59-1.35 (br, 2H); 13C NMR (75 MHz, CDCl3) δ 178, 168.2, 156.1, 148.7, 142.2, 141.9, 134.1, 132.4, 131.8, 128.7, 124.1, 123.4, 123.3, 119.0, 107.8, 103.7, 101.4, 93.4, 80.9, 58.1, 39.0, 35.6; MS (ES+) m/z 455 (M+1), 477 (M+23).

reactant | 2-{2-[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]ethyl}-1H-isoindole-1,3(2H)-dione | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CCN1C(C2=CC=CC=C2C1=O)=O)=O)CO | C26H20N2O7
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | 2-[2-(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)ethyl]-1H-isoindole-1,3(2H)-dione | 61% yield | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CCN1C(C2=CC=CC=C2C1=O)=O | C26H18N2O6
